US04694019
Trans 4-(5-methyl-2-furyl)-4-oxo-2-butenoic Acid
10 g of 2-acetyl 5-methyl furan (J. Am. Chem. Soc., 72 3695 (1950)), 7.4 g monohydrated glyoxylic acid and 5 cm3 water are heated to 120°-130° C. for 5 hours, while eliminating the water formed in the course of the reaction. After cooling, 60 cm3 ethyl acetate are added and extracted with a solution of sodium carbonate. The aqueous phase is acidified, extracted with ethyl acetate, dried, and concentrated to dryness. The residue is chromtographed on silica, then, the product is recrystallized in ethyl acetate. 2.2 g of the expected product are obtained. MP=159°-162° C.

reactant | 2-acetyl 5-methyl furan | 10 g | C(C)(=O)C=1OC(=CC1)C | C7H8O2
reactant | water | 5 cm3 | O | H2O
reactant | ethyl acetate | 60 cm3 | C(C)(=O)OCC | C4H8O2
product | Trans 4-(5-methyl-2-furyl)-4-oxo-2-butenoic Acid | 2.2 g | CC1=CC=C(O1)C(/C=C/C(=O)O)=O | C9H8O4
